Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Ciprofloxacin / Cephalexin / 
Penicillins / shellfish derived
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old woman with PMH Rheumatoid 
arthritis, kyphoscoliosis and osteoporosis, who presents from 
___ for rehabilitatation after two falls on ___. 
According to the patient,on ___ she was sent back to her ALF 
___) after having spent three weeks at a rehab 
facility, which she was discharged too after she had an 
amputation of the toes of her left foot, amputations were ___ 
her RA, poor circulation and recurrent infections. She states 
that she was doing well until yesterday when she fell twice. The 
first time,she tripped on the marble slab at the door in her 
bathroom. She states that she fell and hit her head, but denies 
loss of consciousness. The second fall was under similar 
circumstances; at that point she noticed that her left ankle was 
very painful, and believes that she likely hurt it at the time 
of the first fall. She states that staff at ___ called 
for an ambulance when they became aware of the fall.

 
Past Medical History:
- RA
- SLE
- HTN
- osteoporosis
- AI
- PVD
- scoliosis
- h/o humerus fx - unrepaired from ___ years agi
- recurrent foot ulceration c/b osteomyelitis s/p multiple toe 
amputations most recent on the left foot in ___.
- Pulmonary hypertension
- CKD (chronic kidney disease), stage II
 
Social History:
___
Family History:
sister with hypertension and diabetes,father died of MI at ___ 
years old, mother died of stroke at ___ years old
 
Physical Exam:
ON ADMISSION:
VS - Tmax 98, HR 63-84, BP 103-116/56-63, RR 18, O2 sat ___ RA 
 
GENERAL: elderly, thin, frail woman in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclerae, pink conjunctivae, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema. Toes amputated in left foot with granulation tissue, 
however, no erythema or discharge. Toes of right foot are 
deformed, with contractures/ Hammertoe deformity of the digits. 
Upper extremities also have contractures at elbow, however, ROM 
preserved, MCP joints swollen, erythematous, not warm to touch, 
nontender.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  

AT DISCHARGE:
ON ADMISSION:
VS - Tmax 98, HR 63-84, BP 103-116/56-63, RR 18, O2 sat ___ RA 
 
GENERAL: elderly, thin, frail woman in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclerae, pink conjunctivae, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema. Toes amputated in left foot with granulation tissue, 
however, no erythema or discharge. Toes of right foot are 
deformed, with contractures/ Hammertoe deformity of the digits. 
Upper extremities also have contractures at elbow, however, ROM 
preserved, MCP joints swollen, erythematous, not warm to touch, 
nontender.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  

 
Pertinent Results:
Imaging:

CT Head ___ :  
Somewhat limited examination due to patient motion artifact. 
Subgaleal 
hematoma overlying the right parietal bone, no underlying 
fractures 
identified. No acute intracranial abnormalities. 

CT Cervical Spine ___:
 
1. No acute fracture. 
2. Severe multilevel degenerative changes. Diffuse osteopenia. 

Radiograph Left ankle ___:  
Postoperative changes as described. Demineralized bones.  No 
acute findings. 

 
Brief Hospital Course:
The patient is a ___ year old woman with pmh Rheumatoid 
arthritis, osteoporosis, kyphoscoliosis, presenting with history 
of two falls at her ALF for evaluationn; per ___, pt will need 
rehabilitation, transferred to medicine while a bed becomes 
available.  
#Falls: multifactorial in nature, likely in the setting of 
disfiguring RA as well as deconditioning due to recent surgery 
and only recently returning to her ALF from a three week stay at 
rehab. Environment also contributing, as pt trips on the marble 
slab in her bathroom. patient was evaluated by physical therapy, 
who recommended continued rehabilitation and continued physical 
therapy in the outpatient setting. 

#Rheumatoid arthritis: with several sequellae, including most 
recently amputation of toes of left foot ___ deformities causing 
poor circulation and recurrent infections. Most recently stable 
on home prednisone. Continued Prednisone 5 mg PO ___ 81 mg 
PO daily, Tylenol ___ mg q6h PO PRN pain  

#?Lupus: pt states that she has been told in the past that she 
may have Lupus in addition to RA, and for this reason she takes 
plaquenil. continued Plaquenil 200 mg PO daily  

#Osteoporosis:stable without recent fractures. continued calcium 
and Vitamin D3  

#HTN: stable,continued lisinopril and nifedipine  

#GERD: stable,continued Prilosec  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Calcium Carbonate 1250 mg PO BID 
4. Acetaminophen 650 mg PO Q4H:PRN pain/headache 
5. PredniSONE 5 mg PO EVERY OTHER DAY 
6. NIFEdipine CR 30 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Hydroxychloroquine Sulfate 200 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain/headache 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 1250 mg PO BID 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Hydroxychloroquine Sulfate 200 mg PO DAILY 
6. Lisinopril 10 mg PO DAILY 
7. NIFEdipine CR 30 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. PredniSONE 5 mg PO EVERY OTHER DAY 
10. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: falls, without evidence of head injury, 
without fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You are now well and able to be safely discharged. Please 
continue to take all of your medications as prescribed and keep 
your followup appointments, in particular your appointment with 
your primary care doctor.
 
Followup Instructions:
___